US06797739B1
Preparation of Cyclohexyl 2-{4-[2,4-bis(trichloromethyl)-s-triazine-6-yl]phenyl thio}acetate Represented as in the Following Chemical Formula 1e
The mixed solution of 10 g of cyclohexyl 2-(4-cyanophenylthio)acetate (36.3 mmol), 0.8 g of AlBr3, and 50 g of trichloroacetonitrile was bubbled with dry HCl at room temperature.

reactant | cyclohexyl 2-(4-cyanophenylthio)acetate | 36.3 mmol, 10 g | C(#N)C1=CC=C(C=C1)SCC(=O)OC1CCCCC1 | C15H17NO2S
reactant | AlBr3 | 0.8 g | [Al](Br)(Br)Br
reactant | trichloroacetonitrile | 50 g | ClC(C#N)(Cl)Cl | C2Cl3N
reactant | HCl | Cl | ClH
product | Cyclohexyl 2-{4-[2,4-bis(trichloromethyl)-s-triazine-6-yl]phenyl thio}acetate | ClC(C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C1=CC=C(C=C1)SCC(=O)OC1CCCCC1)(Cl)Cl | C19H17Cl6N3O2S
